US06664271B1
This reaction was run in the same manner as ethyl 1-benzoyl-3-piperidinecarboxylate, starting with commercially available 3-hydroxypiperidine (1.03 g; 10.2 mmol) and 2-thiopheneacetyl chloride (1.2 ml; 10 mmol) and diisopropylethylamine (1.9 ml; 10.9 mmol). The crude product was purified by chromatography on silica, eluting with 100% ethyl acetate, giving 1-(2-thiopheneacetyl)-3-hydroxypiperidine (1.49 g) as a yellow oil, which solidified on standing. MS m/z (positive ion) 248 (M+Na+; 50), 226 (MH+; 100).

reactant | ethyl 1-benzoyl-3-piperidinecarboxylate | C(C1=CC=CC=C1)(=O)N1CC(CCC1)C(=O)OCC | C15H19NO3
reactant | 3-hydroxypiperidine | 10.2 mmol, 1.03 g | OC1CNCCC1 | C5H11NO
reactant | 2-thiopheneacetyl chloride | 10 mmol, 1.2 ml | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
reactant | diisopropylethylamine | 10.9 mmol, 1.9 ml | C(C)(C)N(CC)C(C)C | C8H19N
product | 1-(2-thiopheneacetyl)-3-hydroxypiperidine | 1.49 g | S1C(=CC=C1)CC(=O)N1CC(CCC1)O | C11H15NO2S
